US04272435
Next, 213 g of a 10% aqueous sodium hypochlorite solution was cooled to 5° C. and 0.5 g of benzyltriethylammonium chloride was added thereto. To the resulting aqueous solution was added 200 ml of an ethyl acetate solution containing 33 g of the resulting 90%-pure 2-amino-2,4-dimethylpentanonitrile over 30 minutes with stirring. This reaction mixture was stirred at 5° to 10° C. for 3 hours, and the organic and water phases were separated from each other. Ethyl acetate was removed from the organic phase under reduced pressure. The resulting white crystals were washed with water and dried to obtain 24.8 g of 2,2'-azobis(2,4-dimethylpentanonitrile). Yield was 85 mole %.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | 2-amino-2,4-dimethylpentanonitrile | NC(C#N)(CC(C)C)C | C7H14N2
catalyst | benzyltriethylammonium chloride | 0.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 2,2'-azobis(2,4-dimethylpentanonitrile) | 24.8 g | N(=NC(C#N)(CC(C)C)C)C(C#N)(CC(C)C)C | C14H24N4
